US07183290B2
A. Tert-butyl 1-[4-(trifluoromethyl)phenyl]piperidin-4-ylcarbamate.
A 100 mL round bottom flask was mixed with 4-triflouromethylbromobenzene (3.2 g, 15.0 mmol), triisopropylphosphine (10.0 mg, 0.062 mmol), Pd(OAc)2 (3.0 mg, 0.013 mmol) and xylenes (50 mL). The reaction mixture was allowed to heat at 110° C. for a period of 30 min at which it was mixed with tert-butyl piperidin-4-ylcarbamate (1.0 g 5.0 mmol). The reaction mixture stirred at 120° C. for 4.0 hours and then cooled to RT. The reaction mixture was partitioned between EtOAc and saturated NaHCO3. The organics were dried over MgSO4 and concentrated to a crude oil. The oil was purified using silica gel chromatography (90% hexanes/10% EtOAc) to yield a total of 472 mg of mostly pure solid.

reactant | 4-triflouromethylbromobenzene | 15.0 mmol, 3.2 g | FC(C1=CC=C(C=C1)Br)(F)F | C7H4BrF3
reactant | triisopropylphosphine | 0.062 mmol, 10.0 mg | C(C)(C)P(C(C)C)C(C)C | C9H21P
reactant | tert-butyl piperidin-4-ylcarbamate | 5.0 mmol, 1.0 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
catalyst | Pd(OAc)2 | 0.013 mmol, 3.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Tert-butyl 1-[4-(trifluoromethyl)phenyl]piperidin-4-ylcarbamate | FC(C1=CC=C(C=C1)N1CCC(CC1)NC(OC(C)(C)C)=O)(F)F | C17H23F3N2O2
